US09145392B2
4-Amino-6-{4-[1-(2-dimethylamino-ethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile (“8”)
The title compound was prepared in an analogous manner as 4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile using 2-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-2-(piperidin-4-yl)-1H-imidazol-1-yl)-N,N-dimethylethanamine instead of 4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1h-imidazol-2-yl]-piperidine. LC-MS: (M+1=503, obsd.=503).

reactant | 4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C | C21H19F4N7
reactant | 2-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-2-(piperidin-4-yl)-1H-imidazol-1-yl)-N,N-dimethylethanamine | FC1=C(C=C(C=C1)C=1N=C(N(C1)CCN(C)C)C1CCNCC1)C(F)(F)F | C19H24F4N4
product | 4-Amino-6-{4-[1-(2-dimethylamino-ethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCN(C)C | C24H26F4N8
